US04518415
3-(4-Chlorobenzoyl)-2,2-dimethylpropionic acid (13.7 g) was dissolved in ethanol (100 ml) which had been saturated with gaseous hydrogen chloride. The solution as refluxed for eight hours. The solvent was distilled off and replaced by ether. The ethereal solution was washed with saturated sodium bicarbonate solution, then with brine, dried over magnesium sulphate and concentrated in vacuo to yield 14.5 g of ethyl 3-(4-chlorobenzoyl)-2,2-dimethylpropionate as an oil.

reactant | 3-(4-Chlorobenzoyl)-2,2-dimethylpropionic acid | 13.7 g | ClC1=CC=C(C(=O)CC(C(=O)O)(C)C)C=C1 | C12H13ClO3
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 3-(4-chlorobenzoyl)-2,2-dimethylpropionate | 14.5 g | ClC1=CC=C(C(=O)CC(C(=O)OCC)(C)C)C=C1 | C14H17ClO3
